US08492378B2
2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine
To a solution of diethyl[[2-[(3-phenylpropionyl)amino]-3-pyridyl]methyl]phosphonate (13.56 g, 36.03 mmol) in toluene (150 mL) was added a suspension of tert-butoxy potassium (11.41 g, 86.47 mmol) in tetrahydrofuran (86.47 mL), and the resulting mixture was stirred at 90° C. for 1 hr. The reaction mixture was concentrated under reduced pressure, water was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-0/1) and recrystallized from hexane/ethyl acetate to give the title compound (2.02 g, yield 25%) as colorless crystals.

reactant | diethyl[[2-[(3-phenylpropionyl)amino]-3-pyridyl]methyl]phosphonate | 36.03 mmol, 13.56 g | C(C)OP(OCC)(=O)CC=1C(=NC=CC1)NC(CCC1=CC=CC=C1)=O | C19H25N2O4P
reactant | tert-butoxy potassium | 86.47 mmol, 11.41 g | C(C)(C)(C)O[K]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 86.47 mL | O1CCCC1 | C4H8O
product | 2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine | 2.02 g, yield 25% | C1(=CC=CC=C1)CCC1=CC=2C(=NC=CC2)N1 | C15H14N2
